US04665202
1.7 g sodium is allowed to react with 150 ml absolute ethanol. After complete disappearance of sodium, one adds 13.5 g 4-chloro-3-formyl-flav-3-ene. After stirring 30 minutes at 40° C., 300 ml of water is added and a precipitate is formed, filtered, washed with water and dried. The solid is crystallized in hexane. Pure 4-ethoxy-3-formyl-flav-3-ene is obtained as yellow crystals; m.p. 80°-82° C.

reactant | sodium | 1.7 g | [Na] | Na
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | 4-chloro-3-formyl-flav-3-ene | 13.5 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
solvent | water | 300 ml | O | H2O
product | 4-ethoxy-3-formyl-flav-3-ene | C(C)OC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C18H16O3
